US09446393B2
A round bottom flask was charged with (S)-(5-oxopyrrolidin-2-yl)methyl-4-methylbenzenesulfonate (18.4 g, 68.5 mmol), DMF (400 mL), and NaN3 (17.8 g, 274 mmol). The resulting mixture was stirred at 55° C. for overnight. Removal of solvent under reduced pressure followed by flash chromatography purification (7% MeOH in CHCl3 as the eluent) provided the (S)-5-(azidomethyl) pyrrolidin-2-one (8.45 g, 60.36 mmol, 88%) as a yellow oil.

reactant | (S)-(5-oxopyrrolidin-2-yl)methyl-4-methylbenzenesulfonate | 68.5 mmol, 18.4 g | O=C1CC[C@H](N1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H15NO4S
reactant | NaN3 | 274 mmol, 17.8 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | (S)-5-(azidomethyl) pyrrolidin-2-one | 60.36 mmol, 8.45 g, 88% | N(=[N+]=[N-])C[C@@H]1CCC(N1)=O | C5H8N4O
